US04260612
14.35 g. (0.05 mole) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are dissolved in 100 ml. of anhydrous chloroform. To the solution 15.0 ml. (0.15 mole) of n-butyl amine are added. The reaction mixture is allowed to stand for 3 days at room temperature, whereafter 70 ml. of water are added. The pH-value of the aqueous layer is adjusted under vigorous stirring to 2 by adding 10% by W/V hydrochloric acid solution. The organic layer is separated and the aqueous layer is shaken out with 2×50 ml. of chloroform. The combined organic layers are dried above calcinated sodium sulfate, finally the solvent is distilled off at reduced pressure. The residue is crystallized from methanol. 4.3 g. (31%) of 9-(n-butyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid is obtained. Melting point: 13.5°-137° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.05 mole | BrC1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C10H11BrN2O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | n-butyl amine | 0.15 mole | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 9-(n-butyl-amino)-6-methyl-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 31% | C(CCC)NC1=CCC(N2C1=NC=C(C2=O)C(=O)O)C | C14H19N3O3
